US07754757B2
In a similar manner to Example 6, ethyl 4-aminobicyclo[2.2.1]heptane-1-carboxylate (50.0 mg) and (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile (59.3 mg) were used to obtain (2S)-1-[[N-(4-ethoxycarbonylbicyclo[2.2.1]hept-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile (79.4 mg).

reactant | ethyl 4-aminobicyclo[2.2.1]heptane-1-carboxylate | 50.0 mg | NC12CCC(CC1)(C2)C(=O)OCC | C10H17NO2
reactant | (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile | 59.3 mg | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
product | (2S)-1-[[N-(4-ethoxycarbonylbicyclo[2.2.1]hept-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile | 79.4 mg | C(C)OC(=O)C12CCC(CC1)(C2)NCC(=O)N2[C@@H](CCC2)C#N | C17H25N3O3
